US04792561
Preparation of 3,4-dihydrocarbostyril
A solution of 25 g of o-nitrocinnamic acid in 250 ml of ethanol was shaken with 2.5 g of 10% palladium on carbon under hydrogen at a pressure of 3 atmospheres. When the theoretical amount of hydrogen had been absorbed the catalyst was filtered off, washed with hot ethanol and the filtrate evaporated under reduced pressure to give 3,4-dihydrocarbosytril, m.p. 168°-169° C.

reactant | o-nitrocinnamic acid | 25 g | [N+](=O)([O-])C1=C(C=CC(=O)O)C=CC=C1 | C9H7NO4
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 3,4-dihydrocarbostyril | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
